US05571809
To 1.0 g (4.4 mmoles) of 5,6-dihydro-6-methyl-11H-pyrido[2,3-b][1,5]benzodiazepin-5-one in 50 ml of dimethylformamide was added 0.25 g (5 mmol) of 50% sodium hydride in oil. The reaction mixture was then stirred at 50° C. for an additional 2 h and then 0.6 ml (5 mmol) of ethyl bromoacetate was added. The reaction mixture was then stirred at 50° C. for an additional 3 h. It was then cooled to room temperature and the solvent was evaporated. The residue was dissolved in methylene chloride, washed with water, dried over anhydrous sodium sulfate and evaporated to obtain 2.0 g of the crude product. It was further purified by column chromatography (silica gel) using 10% ethyl acetate/methylene chloride as eluent to obtain 250 mg of pure 5,6-dihydro-11-(ethoxy-carbonyl)methyl-6-methyl-11H-pyrido[2,3-b][1,5]benzodiazepin-5-one, m.p. 99°-100° C.

reactant | 5,6-dihydro-6-methyl-11H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 4.4 mmoles, 1.0 g | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | sodium hydride | 5 mmol, 0.25 g | [H-].[Na+]
reactant | ethyl bromoacetate | 5 mmol, 0.6 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5,6-dihydro-11-(ethoxy-carbonyl)methyl-6-methyl-11H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 250 mg | C(C)OC(=O)CN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC=N2 | C17H17N3O3
